US04628059
The crude 4-(3',5'-difluorobenzyl)-1-formyl-3-thiosemicarbazide (3.5 g) was refluxed overnight in a solution of sodium ethoxide (from sodium (0.3 g) in ethanol (25 ml.)). The reaction was filtered, evaporated to dryness, and diluted with water. The aqueous solution was acidified to pH 3-4 with 10% hydrochloric acid, and the precipitate was collected by filtration and recrystallized from ethanol-water to yield 2.3 g (71%) of 4-(3',5'-difluorobenzyl)-1,2,4-triazole-3-thiol after recrystallization from water, m.p.: 129°-130° C.

reactant | 4-(3',5'-difluorobenzyl)-1-formyl-3-thiosemicarbazide | 3.5 g | FC=1C=C(CNC(NNC=O)=S)C=C(C1)F | C9H9F2N3OS
reactant | sodium ethoxide | 25 ml, 0.3 g | [O-]CC.[Na+]
product | 4-(3',5'-difluorobenzyl)-1,2,4-triazole-3-thiol | 2.3 g, 71% | FC=1C=C(CN2C(=NN=C2)S)C=C(C1)F | C9H7F2N3S
